US04013473
In an autoclave 222 g of 2-hydroxytetraline, 2.5 g of aluminium grit and 0.2 g of mercury(II) chloride are heated at 180° C for 1 h. After cooling 85 g of isobutylene are added and the mixture is stirred at 100° C for 3 h. In order to eliminate the catalyst the reaction product is washed with diluted hydrochloric acid. A subsequent distillation yields 212 g of 1-t-butyl-2-hydroxytetraline. Boiling point (13 mm Hg): 171° C. Melting point: 104° C.

reactant | 2-hydroxytetraline | 222 g | OC1CC2=CC=CC=C2CC1 | C10H12O
reactant | isobutylene | 85 g | CC(C)=C | C4H8
catalyst | mercury(II) chloride | 0.2 g | [Hg](Cl)Cl
catalyst | aluminium | 2.5 g | [Al] | Al
product | 1-t-butyl-2-hydroxytetraline | 212 g | C(C)(C)(C)C1C(CCC2=CC=CC=C12)O | C14H20O
